US09359338B2
Step 1: Synthesis of 5-bromo-2-fluoroaniline
Mix 4-bromo-1-fluoro-2-nitrobenzene (2 g, 9.17 mmol) and stannous chloride dihydrate (8 g, 35 mmol) in ethanol (20 mL), heat the mixture to reflux for 4 hrs. Cool the reaction to room temperature, dilute with water and adjust pH=12 with sodium hydroxide solution, filter off the solid. Partition the filtrate in water and dichloromethane, collect the organic layer, dry over anhydrous sodium sulfate, and concentrate under reduced pressure to give crude product (800 mg, 46.5%). MS: (M+1): 190/192.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 9.17 mmol, 2 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-bromo-2-fluoroaniline | 800 mg, 46.5% | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
